US05863947
A mixture of 2-benzylthio-4-cyanobenzaldehyde (1.38 g, 5 mmol), potassium cyanide (0.78 g, 12 mmol) and ammonium carbonate (2.304 g, 24 mmol) in ethanol-water (1:1, 16 ml) was heated with stirring in a sealed reaction vessel at 85° C. for 16 hours. The resulting cooled solution was acidified with 2N hydrochloric acid (6 ml), then extracted with ethyl acetate (3×10 ml), dried and evaporated to a pale brown solid. Chromatography on flash silica eluting with ether/hexane 4:1 gave 5-(2-benzylthio-4-cyanophenyl)hydantoin as a pale orange solid.

reactant | 2-benzylthio-4-cyanobenzaldehyde | 5 mmol, 1.38 g | C(C1=CC=CC=C1)SC1=C(C=O)C=CC(=C1)C#N | C15H11NOS
reactant | potassium cyanide | 12 mmol, 0.78 g | [C-]#N.[K+]
reactant | ammonium carbonate | 24 mmol, 2.304 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | hydrochloric acid | 2N, 6 ml | Cl | ClH
reactant | ethanol water | 16 ml | C(C)O.O
product | 5-(2-benzylthio-4-cyanophenyl)hydantoin | C(C1=CC=CC=C1)SC1=C(C=CC(=C1)C#N)C1C(NC(N1)=O)=O | C17H13N3O2S
